US06599902B2
Synthesis of 2-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-N-(2-hydroxy-3-pyrrolidin-1-yl-propyl)-acetamide
A mixture of {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid (300 mg, 0.578 mmol), HOBt (78 mg, 1 eq.) and EDAC (222 mg, 2 eq.) in DMF (1.5 mL) was stirred at rt for 30 mins. To the mixture was added 1-amino-3-pyrrolidin-1-yl-propan-2-ol (170 mg, 2 eq.) in DMF (1.5 mL). After stirring at rt for overnight, the reaction was concentrated and purified on a silica gel column to give 169 mg (45%) of the titled compound.

reactant | {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid | 0.578 mmol, 300 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)O)C | C24H20Cl2N2O5S
reactant | HOBt | 78 mg, 1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 222 mg, 2 eq. | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-amino-3-pyrrolidin-1-yl-propan-2-ol | 170 mg, 2 eq. | NCC(CN1CCCC1)O | C7H16N2O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 2-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-N-(2-hydroxy-3-pyrrolidin-1-yl-propyl)-acetamide | 169 mg, 45% | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)NCC(CN1CCCC1)O)C | C31H34Cl2N4O5S
